US05470851
4-[Bis(4-fluorophenyl)methylene]-1-(3-phthalimidopropyl)piperidine
The title compound was prepared in a yield of 97% in a similar manner to that described in Preparation 1' by reacting N-(3-bromopropyl)phthalimide and 4-[bis(4-fluorophenyl)methylene]piperidine.

reactant | N-(3-bromopropyl)phthalimide | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | 4-[bis(4-fluorophenyl)methylene]piperidine | FC1=CC=C(C=C1)C(=C1CCNCC1)C1=CC=C(C=C1)F | C18H17F2N
product | 4-[Bis(4-fluorophenyl)methylene]-1-(3-phthalimidopropyl)piperidine | yield of 97% | FC1=CC=C(C=C1)C(=C1CCN(CC1)CCCN1C(C=2C(C1=O)=CC=CC2)=O)C2=CC=C(C=C2)F | C29H26F2N2O2
